US07320986B2
6-ethyl-5-(tetrahydro-2H-pyran-4-yloxy)indan-1-one
Example 247A (150 mg, 0.85 mmol), polymer supported Ph3P (3 mmol/g, 0.57 g, 1.7 mmol), di-tert-butyl azodicarboxylate (392 mg, 1.70 mmol) and tetrahydropyran-4-ol (174 mg, 1.70 mmol) were combined in THF (4 mL) and stirred overnight. Insoluble material was removed by filtration, and the filtrate was concentrated. The residue was purified by flash chromatography eluting with a mixture of ethyl acetate and hexane. The title compound was obtained at quantitative yield. MS (DCI/MH3) m/z: 261.1 (M+H)+.

reactant | Ph3P | 1.7 mmol, 0.57 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 1.70 mmol, 392 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | tetrahydropyran-4-ol | 1.70 mmol, 174 mg | O1CCC(CC1)O | C5H10O2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
product | 6-ethyl-5-(tetrahydro-2H-pyran-4-yloxy)indan-1-one | quantitative yield | C(C)C1=C(C=C2CCC(C2=C1)=O)OC1CCOCC1 | C16H20O3
